### PR TITLE
Unify the fused layer coherence lemmas (`rew_cohLayer*`)

### PR DESCRIPTION
**Pull request by olympichek**
# Unify the fused layer coherence lemmas (`rew_cohLayer*`)

### About

After #22 and #23 we had two independent formulations of the same fused layer-coherence lemma: `rew_layer33` in `RewLemmas` (used by `νSet` and `νDgnSet`, stated for arity-indexed layers) and `rew_cohLayer` in `SSGpdLemmas` (used by `SSGpd`, stated on a single component). This PR reconciles them into one family `rew_cohLayer*` in `RewLemmas`, shared by all three files.

### The pointwise step is factored out

The old `rew_layer*` shape intrinsically assumed that layers are functions from the arity: the lemmas took the whole layer `L: forall a, P (rf0 a d1)` together with a designated component `𝛉`, plus a first premise (`L 𝛉 = ...`) discharged by `now trivial` at every call site, and absorbed the funext head of the proof.

The new `rew_cohLayer*` lemmas are stated on a single painting and know nothing about the layer former — this is exactly the statement `SSGpdLemmas` already had. They apply regardless of how layers are represented:

- layers as functions from the arity, as in `νSet` and `νDgnSet` here: the pointwise step is a separate bridge lemma `layer_rew_eq` — and every layer coherence proof closes in exactly two steps: an application of `layer_rew_eq`, then one of `rew_cohLayer*`;
- a layer as a single painting, as in `SSGpd` here: the proof is a single `rew_cohLayer33` application, with no funext involved;
- layers as vectors, as in `νSet` and `νDgnSet` on the `no-funext` branch, with a vector counterpart of the pointwise bridge.

In every case `rew_cohLayer*` takes the same two premises: the painting coherence and the 2-dimensional frame coherence (`UIP` for h-sets).

### Square-shaped lemmas as instances of the hexagon

`rew_cohLayer33`, the hexagon-shaped coherence (3 arrows against 3), is now proved first, and the square-shaped `rew_cohLayer13`, `rew_cohLayer22`, `rew_cohLayer31` are re-derived from it, by setting 2 of the 6 arrows trivial.

### CODE REVIEW

File: theories/νSet/RewLemmas.v [hunk 1]
```diff
@@ -16,195 +18,134 @@ Lemma rew_swap: forall A (P: A -> Type) a b (H: a = b) (x: P a) (y: P b),
...
   intros * ->. now destruct H'.
-Qed.
+Defined.
 
-Lemma map_subst_app {A B} {x y} {𝛉: A} (H: x = y :> B) (P: A -> B -> Type)
-  (f: forall 𝛉, P 𝛉 x):
-  rew [P 𝛉] H in f 𝛉 = (rew [fun x => forall 𝛉, P 𝛉 x] H in f) 𝛉.
+Lemma map_subst_app {A B} {x y} {θ: A} (H: x = y :> B) (P: A -> B -> Type)
+  (f: forall θ, P θ x):
+  rew [P θ] H in f θ = (rew [fun x => forall θ, P θ x] H in f) θ.
```
Comment (artagnon) [inline theories/νSet/RewLemmas.v]: Why change the theta symbol? Seems unnecessary?

Comment (olympichek) [reply theories/νSet/RewLemmas.v]: 1) I think here it is accidental; the VSCode extension I use for unicode symbols inserts `θ` for `\theta`.
2) There is actually a reason not to use `𝛉` - it breaks VSRocq. Known issue with handling of 4-byte unicode symbols: https://github.com/rocq-prover/vsrocq/issues/1199

If needed I can revert the theta change here and submit it in a separate PR

Comment (artagnon) [reply theories/νSet/RewLemmas.v]: Yeah, maybe do that for cleaner history?

File: theories/νSet/νDgnSet.v [hunk 2]
```diff
@@ -1586,8 +1615,14 @@ Definition mkCohReflAboveAboveLayer {p k}
...
-  apply functional_extensionality_dep.
-  intro θ.
+  apply (layer_rew_eq
+    (P := fun x =>
+      (mkDepsRestr (CohsOfReflCohsInf (mkDepsReflCohsInf deps)))
+        .(_paintings).2 x)
+    (rf0 := fun a x =>
+      (mkDepsRestr (CohsOfReflCohsInf (mkDepsReflCohsInf deps)))
+        .(_restrFrames).2 0 leR_O a x));
+    intro θ.
```
Comment (artagnon) [inline theories/νSet/νDgnSet.v:1625]: Have we eliminated fun-ext completely now? Does this subsume no-funext? Am I missing something?

File: theories/νSet/RewLemmas.v [hunk 3]
```diff
@@ -1,5 +1,7 @@
 (** A few rewriting lemmas not in the standard library *)
 
+From Stdlib Require Import Logic.FunctionalExtensionality.
```
Comment (artagnon) [inline theories/νSet/RewLemmas.v:3]: Hm, we don't use funext anywhere here?

File: theories/νSet/RewLemmas.v (hunk 1 above)
Comment (olympichek) [reply theories/νSet/RewLemmas.v]: Okay

File: theories/νSet/νDgnSet.v (hunk 2 above)
Comment (olympichek) [reply theories/νSet/νDgnSet.v:1625]: No, this PR doesn't eliminate it, fun-ext is just moved inside `layer_rew_eq`

File: theories/νSet/RewLemmas.v [hunk 4]
```diff
@@ -16,195 +18,134 @@ Lemma rew_swap: forall A (P: A -> Type) a b (H: a = b) (x: P a) (y: P b),
...
-  (f1: B1 -> X) (f2: B2 -> X) (g: B3 -> X)
-  {u1 v1: B1} {u2 v2: B2} {u3 v3: B3}
-  (E1: u1 = v1) (E2: f2 v2 = f1 u1) (E3: u2 = v2)
-  (F1: g v3 = f1 v1) (F2: u3 = v3) (F3: f2 u2 = g u3)
-  (aL aR: P (f2 u2)):
-  aL = aR ->
-  f_equal f2 E3 • (E2 • f_equal f1 E1) = F3 • (f_equal g F2 • F1) ->
-  rew [fun x => P (f1 x)] E1 in rew [P] E2 in rew [fun x => P (f2 x)] E3 in aL
-  = rew [P] F1 in rew [fun x => P (g x)] F2 in rew [P] F3 in aR.
+  intro H. apply functional_extensionality_dep; intro ω.
```
Comment (artagnon) [inline theories/νSet/RewLemmas.v:47]: Ah, missed this.

**Review by artagnon — APPROVED** [review]
LGTM, thanks.
